US07635699B2
To a stirred solution of tert-butyl 5-(2,4-dichlorophenyl)-2-formyl-7-methylimidazo[1,2-a]pyrimidine-6-carboxylate (90 mg, 0.22 mmol) in MeOH (4 mL) was added tosyl methyl isocyanide (52 mg, 0.27 mmol) and K2CO3 (61 mg, 0.44 mmol). After heating to 60° C. for 30 min, the reaction was concentrated under reduced pressure and purified by silica gel chromatography to provide tert-butyl 5-(2,4-dichlorophenyl)-7-methyl-2-(oxazol-5-yl)imidazo[1,2-a]pyrimidine-6-carboxylate (65 mg, 66%) as a light yellow solid.

reactant | tert-butyl 5-(2,4-dichlorophenyl)-2-formyl-7-methylimidazo[1,2-a]pyrimidine-6-carboxylate | 0.22 mmol, 90 mg | ClC1=C(C=CC(=C1)Cl)C1=C(C(=NC=2N1C=C(N2)C=O)C)C(=O)OC(C)(C)C | C19H17Cl2N3O3
reactant | tosyl methyl isocyanide | 0.27 mmol, 52 mg | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | K2CO3 | 0.44 mmol, 61 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 4 mL | CO | CH4O
product | tert-butyl 5-(2,4-dichlorophenyl)-7-methyl-2-(oxazol-5-yl)imidazo[1,2-a]pyrimidine-6-carboxylate | 65 mg, 66% | ClC1=C(C=CC(=C1)Cl)C1=C(C(=NC=2N1C=C(N2)C2=CN=CO2)C)C(=O)OC(C)(C)C | C21H18Cl2N4O3
